US08258140B2
10% Palladium on carbon (0.859 g, 0.81 mmol) was added to tert-butyl 4-[3-[4-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]propyl]piperazine-1-carboxylate (2.38 g, 4.04 mmol) and ammonium formate (2.55 g, 40.36 mmol) in ethanol (100 mL). The resulting mixture was stirred at 78° C., with further portions of ammonium formate being added every 5 hours until the reaction was complete. The reaction mixture was cooled to room temperature and the catalyst was removed by filtration. The filtrate was evaporated to dryness, the residue was re-dissolved in DCM (100 mL) and the solution was washed with water (50 mL) and brine (50 mL). The solvents were evaporated to give tert-butyl 4-[3-[4-(1-[3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperidin-4-yl]phenoxy]propyl]piperazine-1-carboxylate (2.090 g, 88%) as a solid.

reactant | tert-butyl 4-[3-[4-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]propyl]piperazine-1-carboxylate | 4.04 mmol, 2.38 g | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(OCCCN1CCN(CC1)C(=O)OC(C)(C)C)C=C2)(F)F | C29H38F3N7O3
reactant | ammonium formate | 40.36 mmol, 2.55 g | C(=O)[O-].[NH4+]
catalyst | Palladium on carbon | 0.81 mmol, 0.859 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | tert-butyl 4-[3-[4-(1-[3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperidin-4-yl]phenoxy]propyl]piperazine-1-carboxylate | 2.090 g, 88% | FC(C1=NN=C2N1N=C(CC2)N2CCC(CC2)C2=CC=C(OCCCN1CCN(CC1)C(=O)OC(C)(C)C)C=C2)(F)F | C29H40F3N7O3
